US09193728B2
Preparation of 3-(4-fluorophenyl)-5-methyl-1-nitrosoindoline
3-(4-Fluorophenyl)-5-methylindoline (0.7 g, 0.00308 mol) was dissolved in ethanol (4.2 mL) and concentrated hydrochloric acid (4.2 mL) was added at 0° C. The reaction mixture was stirred for 5 min. at 0° C. A solution of sodium nitrite (0.425 g, 0.00616 mol) in water (4.2 mL) was added at 0° C., and the reaction mixture was stirred for 2 h at RT. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure, the residue basified with 10% aq. sodium hydroxide solution and the mixture extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give desired compound as a brown colored oil (0.6 g, 76% yield).

reactant | 3-(4-Fluorophenyl)-5-methylindoline | 0.00308 mol, 0.7 g | FC1=CC=C(C=C1)C1CNC2=CC=C(C=C12)C | C15H14FN
reactant | hydrochloric acid | 4.2 mL | Cl | ClH
reactant | sodium nitrite | 0.00616 mol, 0.425 g | N(=O)[O-].[Na+]
solvent | ethanol | 4.2 mL | C(C)O | C2H6O
solvent | water | 4.2 mL | O | H2O
product | 3-(4-fluorophenyl)-5-methyl-1-nitrosoindoline | 0.6 g, 76% yield | FC1=CC=C(C=C1)C1CN(C2=CC=C(C=C12)C)N=O | C15H13FN2O
